US06455548B2
Preparation of 4-(Methoxyethyl)piperidine
To a solution of 5 g (696.6 mmol) of LiAlH4 in 800 mL of THF at rt was carefully added 30 g (232.2 mmol) of 1-t-butoxycarbonyl-4-(methoxycarbonyl methyl)piperidine and the reaction mixture was stirred at rt for 24 h. To the reaction mixture was slowly added 30 mL of H2O over a period of 2 h, followed by 30 mL of a 15% NaOH solution and 30 mL of H2O. The mixture was diluted with ether, filtered, and the solids were triturated several times with ethyl acetate. The combined organic fractions were concentrated to give the title compound.

reactant | LiAlH4 | 696.6 mmol, 5 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1-t-butoxycarbonyl-4-(methoxycarbonyl methyl)piperidine | 232.2 mmol, 30 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(=O)OC | C13H23NO4
reactant | H2O | 30 mL | O | H2O
reactant | NaOH | [OH-].[Na+]
reactant | H2O | 30 mL | O | H2O
solvent | THF | 800 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-(Methoxyethyl)piperidine | COCCC1CCNCC1 | C8H17NO
